US07728130B2
Trifluoroacetic acid (1.00 ml, 13 mmol) was added to tert-butyl 2-(1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate (0.021 g, 0.07 mmol) and stirred at room temperature for 15 minutes. Trifluoroacetic acid was removed under vacuum and the resulting solids were washed with water (3×), ether (3×) and dried in a vacuum oven at 50° C. to afford 2-(1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetic acid in 29% yield.

reactant | Trifluoroacetic acid | 13 mmol, 1.00 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-(1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate | 0.07 mmol, 0.021 g | CN1C(C(=CC2=CC=CC=C12)C(=O)NCC(=O)OC(C)(C)C)=O | C17H20N2O4
product | 2-(1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetic acid | 29% yield | CN1C(C(=CC2=CC=CC=C12)C(=O)NCC(=O)O)=O | C13H12N2O4
